US08541588B2
tert-Butyl [4-(5-fluoro-2-hydroxyphenyl)pyridin-2-yl]carbamate
4-Fluoro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (Preparation 212, 0.082 g, 0.000386 mol), tert-butyl (4-chloropyridin-2-yl)carbamate (0.0588 g, 0.000257 mol), anhydrous sodium carbonate (0.070 g, 0.000660 mol) and palladium (0) tetrakis(triphenylphosphine) (0.029 mg, 0.000025 mol) were suspended in 1,4-dioxane (3.0 ml) and water (1.0 ml). The suspension was stirred at 85° C. for 16 hours before cooling to room temperature. The reaction was diluted with ethyl acetate (10 ml) and organic phase was washed with saturated aqueous sodium bicarbonate solution (2×10.0 ml), dried over sodium sulphate, filtered and concentrated in vacuo. Purification by ISCO™ (12 g SiO2) eluting with ethyl acetate:heptane (gradient 0:1 to 3:7, by volume) afforded the title compound as a solid, 41 mg, 54%.

reactant | 4-Fluoro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.000386 mol, 0.082 g | FC1=CC(=C(C=C1)O)B1OC(C(O1)(C)C)(C)C | C12H16BFO3
reactant | tert-butyl (4-chloropyridin-2-yl)carbamate | 0.000257 mol, 0.0588 g | ClC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C10H13ClN2O2
reactant | sodium carbonate | 0.000660 mol, 0.070 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.0 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium (0) tetrakis(triphenylphosphine) | 0.000025 mol, 0.029 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | tert-Butyl [4-(5-fluoro-2-hydroxyphenyl)pyridin-2-yl]carbamate | FC=1C=CC(=C(C1)C1=CC(=NC=C1)NC(OC(C)(C)C)=O)O | C16H17FN2O3
